US05965742
While the efficiency of a multistep process to prepare a complex molecule can be improved by optimizing the yield of each step, even greater efficiency may be achieved by finding a route with fewer steps. It has now been found that the Target Herbicide may be prepared more efficiently by a new route in which there are only six steps. In the first step 2-fluorohydrazine is cyclized to 4,5-dihydro-1-(2-fluorophenyl)-3-methyl-5-oxo-1H-1,2,4-triazole, which is then chlorinated to 1-(4-chloro-2-fluorophenyl)-4,5-dihydro-3-methyl-5-oxo-1H-1,2,4-triazole. In the third step the chlorinated product is difluoromethylated, affording 1-(4-chloro-2-fluorophenyl)-4-difluoromethyl-4,5-dihydro-3-methyl-5-oxo-1H-1,2,4-triazole. In an alternative, less preferred method, 4,5-dihydro-1-(2-fluorophenyl)-3-methyl-5-oxo-1H-1,2,4-triazole may first be difluoromethylated and then chlorinated. The third step intermediate is nitrated, yielding 1-(4-chloro-2-fluoro-5-nitrophenyl)-4-difluoromethyl-4,5-dihydro-3-methyl-5-oxo-1H-1,2,4-triazole, which is reduced to the corresponding 1-(5-amino-4-chloro-2-fluorophenyl)-4-difluoromethyl-4,5-dihydro-3-methyl-5-oxo-1H-1,2,4triazole. In the final step the 5-amino derivative is subjected to diazotization/arylation, yielding the Target Herbicide.

reactant | 2-fluorohydrazine | FNN | FH3N2
reactant | 4,5-dihydro-1-(2-fluorophenyl)-3-methyl-5-oxo-1H-1,2,4-triazole | FC1=C(C=CC=C1)N1N=C(NC1=O)C | C9H8FN3O
reactant | 1-(4-chloro-2-fluorophenyl)-4,5-dihydro-3-methyl-5-oxo-1H-1,2,4-triazole | ClC1=CC(=C(C=C1)N1N=C(NC1=O)C)F | C9H7ClFN3O
product | 1-(4-chloro-2-fluorophenyl)-4-difluoromethyl-4,5-dihydro-3-methyl-5-oxo-1H-1,2,4-triazole | ClC1=CC(=C(C=C1)N1N=C(N(C1=O)C(F)F)C)F | C10H7ClF3N3O
